US05350736
To a mixture of 2-imino-3-(3-trifluoromethyl-4-fluorophenyl)-5-methylthiazoline hydrochloride (0.62 g) and triethylamine (0.61 g) in ethyl acetate (20 ml), trifluoroacetic acid anhydride (0.42 g) was added at 0° C. After stirring at room temperature for 3 hours, the residue was extracted with ethyl acetate (100 ml), and the extract was washed with water. The solvent was removed under reduced pressure to give crystallines. These crystallines were washed with hexane to give 0.45 g of 2-trifluoroacetylimino-3-(3-trifluoromethyl-4-fluorophenyl)-5-methylthiazoline (Compound No. 2). m.p., 119.4° C.

reactant | 2-imino-3-(3-trifluoromethyl-4-fluorophenyl)-5-methylthiazoline hydrochloride | 0.62 g | Cl.N=C1SC(=CN1C1=CC(=C(C=C1)F)C(F)(F)F)C
reactant | triethylamine | 0.61 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 0.42 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-trifluoroacetylimino-3-(3-trifluoromethyl-4-fluorophenyl)-5-methylthiazoline | 0.45 g | FC(C(=O)N=C1SC(=CN1C1=CC(=C(C=C1)F)C(F)(F)F)C)(F)F | C13H7F7N2OS
